data/mechanisms/records/IMS8-EQ8.30d.json
{"mechanism_id": "IMS8-EQ8.30d", "species": [{"species_id": "exo_ether_protonated_bicycloketone", "mapped_smiles": "[O:2]=[C:1]1[CH2:11][CH2:10][CH:9]2[CH:4]([OH+:5][CH2:6][CH3:7])[CH2:8][CH:3]12", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "bicyclic_keto_carbocation", "mapped_smiles": "[O:2]=[C:1]1[CH2:11][CH2:10][CH:9]2[CH+:4][CH2:8][CH:3]12", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethanol_loss", "mapped_smiles": "[OH:5][CH2:6][CH3:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["exo_ether_protonated_bicycloketone"]}, {"state_id": "state_products", "species_ids": ["bicyclic_keto_carbocation", "ethanol_loss"]}], "steps": [{"step_id": "step_inductive_ethanol_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_d", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_ethanol_loss", "support_type": "textbook_proposed", "locator": {"page": 159, "equation": "8.30", "figure": null, "panel": "d", "section": "8.3 Steric factors"}, "confidence": 0.7, "curator_note": "exo head-to-tail isomer (d), here protonated on the ETHER oxygen (drawn as O5(+)(H)(C2H5); the ketone C1=O2 is left free because the exo geometry prevents the intramolecular O...H+...O chelation that stabilises the endo isomer (c)). Arrow label 'i' (inductive cleavage): the C4-O5 bond breaks heterolytically, ethanol departs with the bonding pair, and C4 becomes a secondary bicyclic carbocation, giving (MH - C2H5OH)+ as the base peak (100%). Book draws 1 arc (the C4-O5 bond breaking toward the departing ethanol). One move, fully drawn. Precursor connectivity is the head-to-tail regiochemistry of (c)/(d) (ethoxy carbon C4 adjacent to the fusion carbon C9 remote from the carbonyl); the product ion (MH - C2H5OH)+ is written only as a formula label on the page, so no product structure is drawn -- the bare C4 carbocation shown here is the curator's minimal faithful representation."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 155.1067, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_mh_minus_etoh_109", "species_id": "bicyclic_keto_carbocation", "step_id": "step_inductive_ethanol_loss", "observed_mz": 109.0648, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
